US07563786B2
(R)-5-Ethynyl-N-{2-methoxy-1-[3-methyl-4-(3-oxomorpholin-4-yl)phenylcarbamoyl]ethyl}thiophene-2-carboxamide
Prepared analogously to Example 1a from 5-ethynylthiophene-2-carboxylic acid and 2-(R)-amino-3-methoxy-N-[3-methyl-4-(3-oxomorpholin-4-yl)phenyl]propionamide with TBTU and NMM in DMF.

reactant | 5-ethynylthiophene-2-carboxylic acid | C(#C)C1=CC=C(S1)C(=O)O | C7H4O2S
reactant | 2-(R)-amino-3-methoxy-N-[3-methyl-4-(3-oxomorpholin-4-yl)phenyl]propionamide | N[C@@H](C(=O)NC1=CC(=C(C=C1)N1C(COCC1)=O)C)COC | C15H21N3O4
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | NMM | CN1CCOCC1 | C5H11NO
solvent | DMF | CN(C)C=O | C3H7NO
product | (R)-5-Ethynyl-N-{2-methoxy-1-[3-methyl-4-(3-oxomorpholin-4-yl)phenylcarbamoyl]ethyl}thiophene-2-carboxamide | C(#C)C1=CC=C(S1)C(=O)N[C@H](COC)C(NC1=CC(=C(C=C1)N1C(COCC1)=O)C)=O | C22H23N3O5S
